US06509329B1
Synthesis of 4-Chloromethyl-6-(3,4,5-trimethoxyphenyl)-pyrimidine
4-Hydroxymethyl-6-(3,4,5-trimethoxyphenyl)-pyrimidine (339 mg) was dissolved in dichloromethane (20 mL), and to the solution thionyl chloride (0.15 mL) was added dropwise under ice cooling, and the mixture was stirred for 1 hour. An aqueous solution of sodium hydroxide was added to the reaction mixture to neutralize it, and extraction was conducted with methylene chloride. The resultant organic layer was washed with saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=1:1) to obtain the title compound.

reactant | 4-Hydroxymethyl-6-(3,4,5-trimethoxyphenyl)-pyrimidine | 339 mg | OCC1=NC=NC(=C1)C1=CC(=C(C(=C1)OC)OC)OC | C14H16N2O4
reactant | thionyl chloride | 0.15 mL | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-Chloromethyl-6-(3,4,5-trimethoxyphenyl)-pyrimidine | ClCC1=NC=NC(=C1)C1=CC(=C(C(=C1)OC)OC)OC | C14H15ClN2O3
